US07728030B2
2,2,2-trifluoro-N-((1R,2S)-1-(1-(4-fluorophenyl)-1H-indazol-5-yloxy)-1-(quinolin-3-yl)propan-2-yl)acetamide
(1R,2S)-1-(1-(4-fluorophenyl)-1H-indazol-5-yloxy)-1-(quinolin-3-yl)propan-2-amine bis(2,2,2-trifluoroacetate) (65 mg, 0.10 mmol) was dissolved in MeOH (1.5 mL), 1,1,3,3-tetramethylguanidine (0.064 mL, 0.51 mmol) and ethyl trifluoroacetate (0.242 mL, 2.03 mmol) was added, the reaction mixture was stirred at r.t. for 2.5 h. Solvent was removed by evaporation and the residual material was purified by HPLC. Fractions was freezedried to give the product as a colourless powder. Yield 35 mg (67%)

reactant | (1R,2S)-1-(1-(4-fluorophenyl)-1H-indazol-5-yloxy)-1-(quinolin-3-yl)propan-2-amine bis(2,2,2-trifluoroacetate) | 0.10 mmol, 65 mg | FC(C(=O)O)(F)F.FC(C(=O)O)(F)F.FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)O[C@@H]([C@H](C)N)C=1C=NC2=CC=CC=C2C1
reactant | 1,1,3,3-tetramethylguanidine | 0.51 mmol, 0.064 mL | CN(C(=N)N(C)C)C | C5H13N3
reactant | ethyl trifluoroacetate | 2.03 mmol, 0.242 mL | FC(C(=O)OCC)(F)F | C4H5F3O2
solvent | MeOH | 1.5 mL | CO | CH4O
product | 2,2,2-trifluoro-N-((1R,2S)-1-(1-(4-fluorophenyl)-1H-indazol-5-yloxy)-1-(quinolin-3-yl)propan-2-yl)acetamide | FC(C(=O)N[C@H]([C@@H](C=1C=NC2=CC=CC=C2C1)OC=1C=C2C=NN(C2=CC1)C1=CC=C(C=C1)F)C)(F)F | C27H20F4N4O2
